data/polar.json
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:1][C:4]([CH3:2])=[N+:11]([O-:17])[O-:18].[CH3:3][O:5][c:6]1[cH:23][cH:12][c:10]([CH:20]=[C:19]2[CH:21]=[C:7]([Br:15])[C:9](=[O:14])[C:8]([Br:16])=[CH:22]2)[cH:13][cH:24]1>>[CH3:1][C:4]([CH3:2])([N+:11](=[O:17])[O-:18])[CH:20]([c:10]1[cH:12][cH:23][c:6]([O:5][CH3:3])[cH:24][cH:13]1)[c:19]1[cH:21][c:7]([Br:15])[c:9]([O-:14])[c:8]([Br:16])[cH:22]1", "epd": [["LP-/Pi+", [17], [11, 17]], ["Pi-/Sigma+", [4, 11], [4, 20]], ["Pi-/Pi+", [20, 19], [19, 21]], ["Pi-/Pi+", [21, 7], [7, 9]], ["Pi-/LP+", [9, 14], [14]]]}
{"reaction_name": "Hydride migration in oxocarbenium ions", "rsmi": "[H:1][C:3]([CH2+:2])([CH3:4])[O:5][CH3:6]>>[H:1][CH2:2][C+:3]([CH3:4])[O:5][CH3:6]", "epd": [["Sigma-/Sigma+", [1, 3], [1, 2]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:8]1[N+:13](=[CH:4][CH:27]=[CH:9][c:21]2[cH:5][cH:14][cH:3][cH:15][cH:6]2)[CH:12]([CH2:28][c:25]2[cH:29][cH:10][cH:16][cH:11][cH:30]2)[C:18](=[O:7])[N:26]1[CH3:17])([CH3:22])([CH3:23])[CH3:24].[N+:2](=[N-:19])=[N-:20]>>[C:1]([CH:8]1[N:13]([CH:4]=[CH:27][CH:9]([N-:19][N+:2]#[N:20])[c:21]2[cH:5][cH:14][cH:3][cH:15][cH:6]2)[CH:12]([CH2:28][c:25]2[cH:29][cH:10][cH:16][cH:11][cH:30]2)[C:18](=[O:7])[N:26]1[CH3:17])([CH3:22])([CH3:23])[CH3:24]", "epd": [["LP-/Pi+", [20], [2, 20]], ["Pi-/Sigma+", [19, 2], [19, 9]], ["Pi-/Pi+", [9, 27], [27, 4]], ["Pi-/LP+", [4, 13], [13]]]}
{"reaction_name": "Propargylic substitution", "rsmi": "[C:2](#[CH:4])[CH2:6][Br:5].[O-:1][CH3:3]>>[Br-:5].[O:1]([CH3:3])[CH2:6][C:2]#[CH:4]", "epd": [["LP-/Sigma+", [1], [1, 6]], ["Sigma-/LP+", [5, 6], [5]]]}
{"reaction_name": "Sulfonyl chloride substitution", "rsmi": "[O:7]([CH3:10])[H:13].[c:1]1([S:6]([Cl:9])(=[O:11])=[O:12])[cH:4][cH:2][cH:8][cH:3][cH:5]1>>[Cl:9][H:13].[c:1]1([S:6]([O:7][CH3:10])(=[O:11])=[O:12])[cH:4][cH:2][cH:8][cH:3][cH:5]1", "epd": [["LP-/Sigma+", [7], [6, 7]], ["Pi-/LP+", [11, 6], [11]], ["LP-/Pi+", [11], [11, 6]], ["Sigma-/LP+", [6, 9], [9]], ["LP-/Sigma+", [9], [9, 13]], ["Sigma-/LP+", [7, 13], [7]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:6](=[O+:30][CH3:28])[c:34]1[cH:20][cH:18][cH:11][cH:19][cH:21]1.[cH:1]1[cH:3][c:29]([B-:31]2([c:10]3[s:16][c:9]([CH3:22])[cH:12][cH:23]3)[O:7][c:32]3[cH:25][cH:27][cH:26][cH:24][c:33]3[O:8]2)[cH:4][cH:2][c:5]1[C:17]([F:13])([F:14])[F:15]>>[CH:6]([c:10]1[s:16][c:9]([CH3:22])[cH:12][cH:23]1)([O:30][CH3:28])[c:34]1[cH:20][cH:18][cH:11][cH:19][cH:21]1.[cH:1]1[cH:3][c:29](-[b-:31]2[o+:7][c:32]3[cH:25][cH:27][cH:26][cH:24][c:33]3[o:8]2)[cH:4][cH:2][c:5]1[C:17]([F:13])([F:14])[F:15]", "epd": [["LP-/Pi+", [7], [31, 7]], ["Sigma-/Sigma+", [10, 31], [10, 6]], ["Pi-/LP+", [6, 30], [30]]]}
{"reaction_name": "Doebner net condensation", "rsmi": "[H:19][O-:20].[O:1]=[C:8]([O:4][H:10])[C:21]([C:9](=[O:2])[O:5][H:11])([H:14])[H:15].[c:3]1([CH:18]=[O:13])[c:12][cH:16][cH:7][cH:6][cH:17]1>>[H:10][O:13][H:19].[H:14][O-:20].[O:1]=[C:8]=[O:4].[O:2]=[C:9]([O:5][H:11])[C:21]([H:15])=[CH:18][c:3]1[c:12][cH:16][cH:7][cH:6][cH:17]1", "epd": [["Sigma-/LP+", [8, 21], [21]], ["LP-/Sigma+", [21], [18, 21]], ["Sigma-/LP+", [13, 18], [13]], ["LP-/Sigma+", [13], [10, 13]], ["Sigma-/LP+", [4, 10], [4]], ["LP-/Pi+", [4], [4, 8]], ["Pi-/LP+", [1, 8], [1]], ["LP-/Pi+", [1], [1, 8]], ["LP-/Sigma+", [20], [14, 20]], ["Sigma-/LP+", [14, 21], [21]], ["LP-/Pi+", [21], [18, 21]], ["Pi-/LP+", [13, 18], [13]], ["LP-/Sigma+", [13], [13, 19]], ["Sigma-/LP+", [19, 20], [20]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:1]12[c:4]([cH:13][cH:9][cH:30][cH:6]1)-[c:5]1[c:2]([cH:7][cH:31][cH:10][cH:14]1)[N+:26]2=[CH:3][CH3:22].[cH:8]1[cH:18][cH:11][c:24]([C:20](=[C:15]2[N:16]([CH3:28])[C:21]([CH3:27])=[C:32]([CH3:29])[S:23]2)[O:25][CH3:17])[cH:12][cH:19]1>>[c:1]12[c:4]([c:5]3[c:2]([cH:7][cH:31][cH:10][cH:14]3)[n:26]1[CH:3]([C:20]([c:15]1[n+:16]([CH3:28])[c:21]([CH3:27])[c:32]([CH3:29])[s:23]1)([c:24]1[cH:11][cH:18][cH:8][cH:19][cH:12]1)[O:25][CH3:17])[CH3:22])[cH:13][cH:9][cH:30][cH:6]2", "epd": [["LP-/Pi+", [16], [15, 16]], ["Pi-/Sigma+", [20, 15], [20, 3]], ["Pi-/LP+", [3, 26], [26]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:1]1[cH:11][cH:6][c:16]([C:13](=[C:8]2[N:9]([CH3:29])[C:14]([CH3:28])=[C:34]([CH3:30])[S:15]2)[O:23][CH3:10])[cH:7][cH:12]1.[cH:2]1[c:17]([CH+:33][c:18]2[cH:3][c:21]([F:26])[cH:32][c:22]([F:27])[cH:4]2)[cH:5][c:19]([F:24])[cH:31][c:20]1[F:25]>>[cH:1]1[cH:11][cH:6][c:16]([C:13]([c:8]2[n+:9]([CH3:29])[c:14]([CH3:28])[c:34]([CH3:30])[s:15]2)([O:23][CH3:10])[CH:33]([c:17]2[cH:2][c:20]([F:25])[cH:31][c:19]([F:24])[cH:5]2)[c:18]2[cH:3][c:21]([F:26])[cH:32][c:22]([F:27])[cH:4]2)[cH:7][cH:12]1", "epd": [["LP-/Pi+", [9], [8, 9]], ["Pi-/Sigma+", [13, 8], [13, 33]]]}
